US08309580B2
3-[{[4-({cyclohexyl[5-(6-fluoropyridin-3-yl)-2-methylfuran-3-yl]methyl}amino)phenyl]carbonyl}(methyl)amino]propanoic acid
A mixture of 5-{4-[chloro(cyclohexyl)methyl]-5-methylfuran-2-yl}-2-fluoropyridine (0.77 g), ethyl 3-{[(4-aminophenyl)carbonyl](methyl)amino}propanoate (0.75 g), sodium carbonate (0.3 g) and sodium iodide (0.5 g) in N,N-dimethylacetamide (10 mL) was stirred overnight at 80° C. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (20% ethyl acetate/hexane to 50% ethyl acetate/hexane). To the residue were added ethanol (3 mL), tetrahydrofuran (3 mL) and 1N lithium hydroxide (2.7 mL), and the mixture was stirred at room temperature for 1 hr. The solvent was evaporated under reduced pressure, and water (10 mL) was added. The mixture was neutralized with 1N hydrochloric acid under ice-cooling, and stirred for 1 hr. The resulting precipitate was collected by filtration and dried to give the title compound (667 mg, 54%).

reactant | 5-{4-[chloro(cyclohexyl)methyl]-5-methylfuran-2-yl}-2-fluoropyridine | 0.77 g | ClC(C=1C=C(OC1C)C=1C=CC(=NC1)F)C1CCCCC1 | C17H19ClFNO
reactant | ethyl 3-{[(4-aminophenyl)carbonyl](methyl)amino}propanoate | 0.75 g | NC1=CC=C(C=C1)C(=O)N(CCC(=O)OCC)C | C13H18N2O3
reactant | sodium carbonate | 0.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.5 g | [I-].[Na+]
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 3-[{[4-({cyclohexyl[5-(6-fluoropyridin-3-yl)-2-methylfuran-3-yl]methyl}amino)phenyl]carbonyl}(methyl)amino]propanoic acid | 667 mg, 54% | C1(CCCCC1)C(C1=C(OC(=C1)C=1C=NC(=CC1)F)C)NC1=CC=C(C=C1)C(=O)N(CCC(=O)O)C | C28H32FN3O4
